datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[Si:11](C)(C)[H:10]>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[Si+:11](C)C 10,11=10,20"
"C=C(C)C[C:11](C)=[CH2:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C=C(C)C[C+:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2C(CC3=CC=CC=C3)C[O:62][C:11]2=[O:12])([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]=[CH:11][NH:12]2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]([CH:20]1CCC3C4C5C1[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[CH:11]=[NH+:12]2 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CCC[C:11]2=[NH+:12][C:63](C)=[O:64])/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:62][Si:11]([H:10])([O:72]CC)[O:82]CC.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC[O:62][Si+:11]([O:72]CC)[O:82]CC.F[S:32]([CH-:21][CH:20](C1=CC=CC=C1)[H:10])(=[O:33])=[O:34] 10,11=10,20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10]>>C1=CC=C([C:20]2([H:10])[S:31]CC[S:41]2)C=C1.CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11] 10,11=10,20"
"CCCC[O:12][CH:11]=[CH2:10].C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>CCCC[O+:12]=[CH:11][CH2:10][CH:20]1[CH:21]=[C:22]([O-:23])[N:43](C)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[N:10][C:61](=[O:62])C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC1(C)C[C:11](=[O:12])[N:10]([CH:20](C)[N:21]2C3=CC=CC=C3C3=C2C=CC=C3)[C:61](=[O:62])C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[S:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.OC[C@@H]1CCC[NH:10]1>>OC[C@@H]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10=20
"CCCC[CH:11]=[CH2:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CCCC[CH+:11][CH2:10][CH:20]([C:21](=[C:22]([O-:23])[O:39]CC)[C:32](=[O:33])[O:34]CC)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CO[C:10]1([CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([C+:11]([CH2:10][CH:20]([C:31]4=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]4)[C:41]4=[CH:42][CH:43]=[C:44](OC5=CC=CC=C5)[CH:45]=[CH:46]4)[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
C1CC[NH:10]C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCCC2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
